US04411902
52 ml of 2,5-dimethoxy-tetrahydrofuran (0.402 moles) are dissolved in 58 ml of water and acidified with 1.2 ml of 37% hydrochloric acid. After 15 minutes, 58 g of acetonedicarboxylic acid (0.397 moles) are added followed by 40.4 g of tribasic sodium citrate bihydrate (0.137 moles) dissolved in 58 ml of water. 18.5 g of ethylamine (0.411 moles) in 35 ml of water are then dripped in. The mixture is left stirring until carbon dioxide ceases to be evolved. It is then saturated with K2CO3 and extracted with ethyl ether. After drying and evaporating the solvent, the crude product is distilled under vacuum. 27.9 g of 8-ethyl-8-azabicyclo-[3.2.1]-octan-3-one are obtained.

reactant | 2,5-dimethoxy-tetrahydrofuran | 0.402 moles, 52 ml | COC1OC(CC1)OC | C6H12O3
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
reactant | acetonedicarboxylic acid | 0.397 moles, 58 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium citrate | 40.4 g | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | ethylamine | 0.411 moles, 18.5 g | C(C)N | C2H7N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 58 ml | O | H2O
solvent | water | 58 ml | O | H2O
solvent | water | 35 ml | O | H2O
product | 8-ethyl-8-azabicyclo-[3.2.1]-octan-3-one | 27.9 g, Yield: 46% | C(C)N1C2CC(CC1CC2)=O | C9H15NO
